simulator lang=spectre
global 0

ahdl_include "./dut/logarithmic_amplifier.va"

Vin (sigin 0) vsource type=pwl wave=[0 0.2 10n 0.2 10.1n 0.7 20n 0.7 20.1n -0.3 30n -0.3 30.1n 1.2 45n 1.2]
XDUT (sigin sigout) logarithmic_amplifier

tran tran stop=40n maxstep=25p
save sigin sigout
